US04719200
L-alanyl-L-prolyl-L-proline benzylester hydrochloride (2.46 g, 6 m mole), benzyloxcarbonyl-L-proline (1.65 g, 6.6 m mole) and 1-hydroxybenzotriazole (0.9 g, 6.6 m mole) were dissolved in dimethylformamide (6 ml) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.2 ml, 6.6 m mole) was added thereto at -15° C. The mixture was stirred for 16 hours at room temperature and to the reaction solution, ethyl actate was added. The solution was washed with 1N hydrochloric acid, 5% aqueous sodium bicarbonate and water in order. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The thus obtained oily residue was dissolved in methanol-water (4:1, 25 ml and hydrogen gas was passed through the solution in the presence of palladium carbon as a catalyst for 2 hours. The catalyst was separated by filtration and the solvent was distilled off under reduced pressure. The thus obtained residue was recrystallized with methanol-ether to give L-prolyl-L-alanyl-L-prolyl-L-proline (1.48 g).

reactant | L-alanyl-L-prolyl-L-proline benzylester hydrochloride | 2.46 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](N)C)=O)=O)=O
reactant | 1-hydroxybenzotriazole | 0.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.2 ml | CN(CCCN=C=NCC)C | C8H17N3
reactant | ethyl actate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | L-prolyl-L-alanyl-L-prolyl-L-proline | 1.48 g | N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)N3[C@H](C(=O)O)CCC3)CCC2)CCC1 | C18H28N4O5
